### PR TITLE
[Merged by Bors] - chore: Use IsCoprime for ideals.

### PR DESCRIPTION
**Pull request by PatrickMassot**
Make `IsCoprime I J` the preferred way to say that two ideals are coprime, provide lemmas translating to other formulations.

---
See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/coprime.20ideal

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 1]
```diff
@@ -839,7 +842,30 @@ theorem isCoprime_iff_codisjoint : IsCoprime I J ↔ Codisjoint I J := by
...
+
+open List in
+theorem isCoprime_tfae : TFAE [IsCoprime I J, Codisjoint I J, I + J = 1,
+    ∃ i ∈ I, ∃ j ∈ J, i + j = 1, I ⊔ J = ⊤] := by
+  rw [← isCoprime_iff_codisjoint, ← isCoprime_iff_add, ← isCoprime_iff_exists,
+      ← isCoprime_iff_sup_eq]
+  simp
+
+theorem _root_.IsCoprime.codisjoint (h : IsCoprime I J) : Codisjoint I J :=
+isCoprime_iff_codisjoint.mp h
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Ideal/Operations.lean:861]:
```suggestion
  isCoprime_iff_codisjoint.mp h
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
